US07307094B2
A mixture of 9-methyl-9-aza-bicyclo[3.3.1]nonan-3-one oxime hydrochloride (0.670 g, 3.27 mmol), rhodium on carbon (0.610 g, 5% rhodium), methanol (18 mL), and concentrated ammonium hydroxide (8.0 mL, 120 mmol) was shaken under a 50 psi hydrogen atmosphere and warmed to 50° C. for 19 h. The mixture was then filtered through a pad of diatomaceous earth and the pad rinsed with additional methanol (3×20 mL). The filtrate was then concentrated to dryness, and residue was partitioned between 10% aqueous sodium carbonate (25 mL) and chloroform (25 mL). The layers were separated, and the aqueous layer was extracted with additional chloroform (2×25 mL). The combined organic extracts were dried over anhydrous potassium carbonate, filtered, and concentrated to afford 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane (0.466 g, 92% yield) as a yellow oil: 1H NMR (500 MHz, CDCl3) d 3.20 (m, 1H), 3.01 (d, J=11.1 Hz, 2H), 2.46 (s, 3H), 2.32-2.25 (m, 2H), 1.99-1.89 (m, 3H), 1.50-1.42 (m, 1H), 1.14-10.9 (m, 2H), 1.07 (br s, 2H), 0.98-0.91 (m, 2H); MS (ESI) m/z 155 [M+H]+. This material was converted to the corresponding dihydrochloride salt in quantitative yield by treatment with excess 4M hydrogen chloride gas in dioxane: mp 232-235° C. 1H NMR (300 MHz, DMSO-d6) δ 11.28 (br s, 1H), 10.31 (br s, 1H), 8.46 (br s, 2H), 3.85 (br s, 2H), 3.61 (br s, 1H), 3.07 (dd, J=18.1, 6.6 Hz, 1H), 2.96 (d, J=4.6 Hz, 2H), 2.76 (d, J=4.6 Hz, 1H), 2.46 (d, J=17.0 Hz, 1H), 2.30-2.18 (m, 2H), 2.02 (br d, J=7.8 Hz, 1H), 1.88-1.72 (m, 2H), 1.70-1.19 (m, 3H).

reactant | 9-methyl-9-aza-bicyclo[3.3.1]nonan-3-one oxime hydrochloride | 3.27 mmol, 0.670 g | Cl.CN1C2CC(CC1CCC2)=NO
reactant | ammonium hydroxide | 120 mmol, 8.0 mL | [OH-].[NH4+]
reactant | hydrogen | [H][H] | H2
catalyst | rhodium on carbon | 0.610 g | [Rh] | Rh
solvent | methanol | 18 mL | CO | CH4O
product | 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane | 0.466 g, 92% yield | NC1CC2CCCC(C1)N2C | C9H18N2
